US04326058
Chloroacetamidine hydrochloride (6.45 g, 0.05 mole), methyl acetoacetate (6.38 g, 0.055 mole) and 2 N aqueous sodium hydroxide solution (50 ml) were mixed and stirred for 1 hour at room temperature. The reaction solution was acidified (pH 4-5) with 6 N hydrochloric acid, followed by extraction with chloroform. The chloroform extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a brown crystal. The crystal was stirred in ether and then filtered to obtain 5.1 g (64% of the theoretical yield) of 2-(chloromethyl)-4-hydroxy-6-methylpyrimidine as colorless plate-like crystals (m.p. 157°-159° C.).

reactant | Chloroacetamidine hydrochloride | 0.05 mole, 6.45 g | Cl.ClCC(=N)N
reactant | methyl acetoacetate | 0.055 mole, 6.38 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-(chloromethyl)-4-hydroxy-6-methylpyrimidine | ClCC1=NC(=CC(=N1)O)C | C6H7ClN2O
